US04604390
2-(5-Chloro-2-nitrophenoxy)-5-methoxybenzoic acid
To a stirred suspension of 65 g of 2-(5-chloro-2-nitrophenoxy)-5-methoxybenzoic acid, methyl ester, in 600 ml of methanol, was added 97.5 ml of 6M KOH solution. This suspension was stirred for 18 hours and the solution which resulted was neutralized with 200 ml of 10% HCl solution. The precipitated crude acid product was collected by filtration and, after recrystallization from acetonitrile, yielded the title compound, mp 232°-234° C.

reactant | 2-(5-chloro-2-nitrophenoxy)-5-methoxybenzoic acid, methyl ester | 65 g | ClC=1C=CC(=C(OC2=C(C(=O)OC)C=C(C=C2)OC)C1)[N+](=O)[O-] | C15H12ClNO6
reactant | KOH | 6M, 97.5 ml | [OH-].[K+]
reactant | HCl | 200 ml | Cl | ClH
solvent | methanol | 600 ml | CO | CH4O
product | 2-(5-Chloro-2-nitrophenoxy)-5-methoxybenzoic acid | ClC=1C=CC(=C(OC2=C(C(=O)O)C=C(C=C2)OC)C1)[N+](=O)[O-] | C14H10ClNO6
